US04366160
60.7 g of 2,6-dichloro-3-methoxy-aniline are dissolved in 65 ml of toluene and treated with 25 ml of thiophosgene in 50 ml of toluene. The solution obtained is heated to boiling under reflux overnight and subsequently evaporated in vacuo. There is obtained 2,6-dichloro-3-methoxyphenylisothiocyanate of boiling point 99° (0.13 Torr).

reactant | 2,6-dichloro-3-methoxy-aniline | 60.7 g | ClC1=C(N)C(=CC=C1OC)Cl | C7H7Cl2NO
reactant | thiophosgene | 25 ml | C(=S)(Cl)Cl | CCl2S
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-dichloro-3-methoxyphenylisothiocyanate | ClC1=C(C(=CC=C1OC)Cl)N=C=S | C8H5Cl2NOS
